US07723065B2
Ethyl benzoyl acetate (192 mg, 1 mmol) was added to diethylether (10 mL) and the solution applied to a sheet of filter paper. The solvent was left to evaporate. Yeast (10 g/mmol) was mixed with water (10 ml) and the resultant paste spread onto the filter paper and left for 24 h. The product was extracted from the yeast using ethyl acetate (2×30 mL). Evaporation under reduced pressure produced an essentially pure ethyl (R)-3-hydroxy-3-phenylbutanoate as an oil.

reactant | Ethyl benzoyl acetate | 1 mmol, 192 mg | CCOC(=O)CC(=O)C1=CC=CC=C1 | C11H12O3
reactant | diethylether | 10 mL | C(C)OCC | C4H10O
product | ethyl (R)-3-hydroxy-3-phenylbutanoate | O[C@@](CC(=O)OCC)(C)C1=CC=CC=C1 | C12H16O3
